US05656629
Ethyl 1,2,3,4-tetrahydro-2-isoquinolinylacetate-hydrochloride (3.63 g) was dissolved in water (100 mL), treated with NaHCO3 and then extracted with ether (3×75 mL). The combined organic layers were dried over MgSO4, filtered and stripped to afford 3.02 g of ethyl 1,2,3,4-tetrahydro-2-isoquinolinylacetate as a pale yellow liquid.

reactant | Ethyl 1,2,3,4-tetrahydro-2-isoquinolinylacetate-hydrochloride | 3.63 g | Cl.C1(NCCC2=CC=CC=C12)CC(=O)OCC
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | water | 100 mL | O | H2O
product | ethyl 1,2,3,4-tetrahydro-2-isoquinolinylacetate | 3.02 g | C1(NCCC2=CC=CC=C12)CC(=O)OCC | C13H17NO2
